US08686044B2
Preparation of N-(2,6-dibromo-4-(perfluorobutan-2-yl)phenyl)-2-fluoro-3-nitrobenzamide
To 108 ml of DMSO were added 5.44 g (8.34 mmol) of 2-chloro-N-(2,6-dibromo-4-(perfluorobutan-2-yl)phenyl)-3-nitrobenzamide and 4.90 g (84.3 mmol) of potassium fluoride (spray-dried product), followed by stirring at 145° C. for 2 hours. The reaction solution was poured into ice-water to precipitate the crystal, and the obtained crystals were filtered and washed with hexane. The obtained crystals were purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=5:1) to prepare 2.42 g (yield 46%) of a target compound.

reactant | 2-chloro-N-(2,6-dibromo-4-(perfluorobutan-2-yl)phenyl)-3-nitrobenzamide | 8.34 mmol, 5.44 g | ClC1=C(C(=O)NC2=C(C=C(C=C2Br)C(C(F)(F)F)(C(C(F)(F)F)(F)F)F)Br)C=CC=C1[N+](=O)[O-] | C17H6Br2ClF9N2O3
reactant | potassium fluoride | 84.3 mmol, 4.90 g | [F-].[K+]
solvent | DMSO | 108 ml | CS(=O)C | C2H6OS
product | N-(2,6-dibromo-4-(perfluorobutan-2-yl)phenyl)-2-fluoro-3-nitrobenzamide | 2.42 g, yield 46% | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(C(F)(F)F)(F)F)F)Br)NC(C1=C(C(=CC=C1)[N+](=O)[O-])F)=O | C17H6Br2F10N2O3
